Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G1P0 @ ___ re-presents for third time with right upper 
quadrant abdominal pain and right flank pain after discharge on 
___ from antepartum service where she was being treated with 
narcotics for pain control for nephrolithiasis measuring 3mm in 
right ureter. Patient is tolerating PO dilaudid but this is not 
controlling her pain adequately. Pt has received 2mg IV dilaudid 
which has helped her pain significantly. Of note patient reports 
that she has 2 kidneys and 2 ureters on her right side although 
there is no mention of this on her MRI imaging from ___. MRI at 
the time demonstrated nl R ovary and nl appearing appendix. 
Patient reports that she has been able to tolerate POs. She 
reports no problems with urination. She has been constipated 
with no BM since last ___ but has been passing flatus.
 
Past Medical History:
PRENATAL COURSE
___ ___
reports nl ERA, FFS, labs
having GLT in ___

GYNhx:
- denies abnl pap or STI
- denies endometriosis, fibroids, or infertility

MedHx:
- interstitial cystitis in the past but no recent flares

SurgHx:
- wisdom teeth
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: T 99, HR 75, BP 115/69
GENERAL: appears comfortable
ABDOMEN: soft, tender to palpation in RLQ, right flank. No LLQ 
pain.
No rebound/guarding. No fundal tenderness
EXTREMITIES: no C/C/E

SVE no bleeding, os visually closed
TOCO CTX Q ___
FHT 150/mod var/+accels/no decels AGA
TAUS: VTX, FHR 137, anterior placenta, AFI 14.3, BPP ___
TVUS: CL 3.5cm
 
Pertinent Results:
___ WBC-8.0 RBC-3.42 Hgb-9.7 Hct-28.8 MCV-84 Plt-344
___ Neuts-81.7 ___ Monos-7.4 Eos-0.8 Baso-0.1
___ WBC-6.6 RBC-3.23 Hgb-9.2 Hct-27.2 MCV-84 Plt-325
___ ___ PTT-33.8 ___ ___ BLOOD Glucose-78 UreaN-6 Creat-0.7 Na-135 K-3.2* Cl-100 
HCO3-22 AnGap-16
___ ALT-10 AST-12 Amylase-38 TotBili-0.2 Lipase-16
___ Calcium-8.5 Phos-3.3 Mg-1.8
___ BLOOD HBsAg-NEGATIVE IgM HAV-NEGATIVE
___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-80 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

URINE CULTURE (Final ___: 
  GRAM POSITIVE BACTERIA. 10,000-100,000 ORGANISMS/ML.
  Alpha hemolytic colonies consistent with alpha
  streptococcus or Lactobacillus sp.
 
Brief Hospital Course:
___ G1P0 readmitted at 26w5d RLQ/flank pain.
.
Ms ___ was readmitted for persistent right sided abdominal 
pain and constipation. She remained afebrile and without 
evidence of infection. Since she was recently diagnosed with a 
small renal stone and subsequently was readmitted twice with 
persistent pain, urology was consulted. Urology recommended 
repeating an ultrasound, which revealed no evidence of distal 
ureteral stone, mild right hydronephrosis, no jets visible 
bilaterally but bladder noted to be increasing in size by end of 
exam. They felt that her presentation did not appear consistent 
with renal calculi, including her pain, no red blood cells in 
urine, and only physiologic hydronephrosis on ultrasound. 
Therefore, they did not feel that a stent was warranted. She 
contined to receive IV fluids and Dilaudid for pain control. She 
was on a bowel regimen due to her recent history of 
constipation, likely due to narcotic use. By hospital day 3, she 
continued to report intermittent right sided abdominal pain. She 
had a couple small bowel movements. GI was consulted at that 
time and they did not feel the etiology of her pain was GI 
related. For her constipation, they recommended avoiding 
narcotics and miralax as needed. On hospital day #4, Ms ___ 
pain had completely resolved. The etiology of her pain remained 
unclear, however, she was afebrile, tolerating a regular diet, 
and was painfree. She was discharged home and will have close 
outpatient followup.
.
Fetal testing remained reassuring. Ultrasound on ___ revealed a 
vertex fetus, BPP ___, AFI 15.5, and EFW 991g(48%).
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
prenatal vitamins
colace 100mg bid
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 27+1 weeks gestation
abdominal pain
 
Discharge Condition:
stable
 
Discharge Instructions:
stay well hydrated. continue colace daily, eat high-fiber diet. 
If constipated, you may use Miralax. Call your doctor with any 
leaking of fluid, vaginal bleeding, regular or painful 
contractions, fevers >100.4, persistent pain, nausea/vomiting, 
decreased fetal movement, or anything that concerns you.
 
Followup Instructions:
___